Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Jaundice
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
___ man with history of testicular cancer s/p
orchiectomy and BEP and in remission who presents with abnormal
LFTs. 
 
 The patient had generally been feeling unwell for approximately
___ days at this point. Characterized initially by constipation
which resolved with stool softeners. Then subsequently has
developed diarrhea in the last ___ days. Nonbloody. Associated
with generalized malaise and fatigue. No fevers or chills. No
chest pain shortness of breath. No abnormal bruising or bleeding
anywhere. No sores on the inside of his mouth. Does have a
history of Lyme disease ___ years ago but was treated probably for
this. Does work outside consistently but has not found any ticks
recently and checks his skin regularly given prior experience. 
No
recent viral illnesses. No sore throat cough runny nose peer.
Seen at his PCPs office yesterday with ALT in 800s, AST 114 in
100s, T bili 12.1, alk phos 300. Sent here for further
evaluation. Slight anemia with hemoglobin 13.1. Slight 
leukopenia
with white blood cell count 4.1. No history of hepatitis or HIV.
History of Lyme as above. No chemotherapy since ___.  

 In the ED, initial vitals were: 98, 92, 104/62, 16, 99% RA  
 - Exam notable for: Scleral icterus, jaundice, and RUQ
tenderness.  
 - Labs notable for:  
 Normal CBC, lactate  
 ALT: 747 AP: 358 Tbili: 12.8  
 AST: 133 LDH: 512 Dbili: 7.3  
 GGT: 736  
 Na: 130  
 INR 1.2  
 HBsAg: Neg  
 HBs-Ab: Neg  
 HBc-Ab: Neg  
 HCV-Ab: Neg  
 Negative tox screen  
 Parasite Smear: Negative  
 - Imaging was notable for:  
 Liver/Gallbladder US:  
 1. Echogenic liver consistent with steatosis. Other forms of
liver disease including steatohepatitis, hepatic fibrosis, or
cirrhosis cannot be excluded on the basis of this examination.  
 2. The gallbladder is not visualized, which may be contracted 
as
patient reports no history of prior cholecystectomy. No biliary
ductal dilatation.  
 - Patient was given: IVF NS 1000 mL  
 - Liver was consulted and recommended full hepatitis work-up 
and
admission to medicine.  

 Upon arrival to the floor, patient states the story above. He
says he has had progressive improvement in his symptoms since
last week. Denies sick contacts or recent travel though does 
work
with drains and dirty water as part of his job at the ___.  

 ROS: Positive per HPI. Remaining 10 point ROS reviewed and
negative  

 
Past Medical History:
 1. Stage IIC seminoma of the R testis diagnosed in ___ 
and
retroperitoneal mass and elevated LDH (other tumor markers
normal) treated orchiectomy in ___. Found to have a pure
seminoma and treated with BEP x 3 cycles completed in ___.
Retroperitoneal mass resolved after chemotherapy.  
 2. Psoriasis  
 3. Hx of Lyme disease  
 
Social History:
___
Family History:
Mother alive in her ___, no malignancy, liver disease, or heart
disease. Does not know paternal hx.  
 
Physical Exam:
ADMISSION EXAM
==============
VITAL SIGNS: 98.3 PO 109 / 71 70 18 100 RA 
GENERAL: NAD, jaundiced
HEENT: icteric sclera, MMM
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants
EXTREMITIES: no edema
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE EXAM
==============
24 HR Data 
    Temp: 98.2 (Tm 98.3), BP: 116/73 (109-116/71-73), HR: 71
(62-71), RR: 16 (___), O2 sat: 99% (99-100), O2 delivery: RA  
GENERAL: NAD, Jaundiced
HEENT: AT/NC, icteric sclera, MMM
CV: RRR, S1/S2, no m/r/g
PULM: CTAB, no r/r/w
GI: Soft, NT, ND, +BS
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: Warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
Admission Labs: 

___ 11:45AM BLOOD WBC-4.7 RBC-4.64 Hgb-13.3* Hct-39.6* 
MCV-85 MCH-28.7 MCHC-33.6 RDW-16.6* RDWSD-51.2* Plt ___
___ 11:45AM BLOOD Neuts-54.9 ___ Monos-11.9 
Eos-0.9* Baso-0.6 Im ___ AbsNeut-2.57 AbsLymp-1.47 
AbsMono-0.56 AbsEos-0.04 AbsBaso-0.03
___ 11:45AM BLOOD ___ PTT-25.8 ___
___ 11:45AM BLOOD Glucose-95 UreaN-9 Creat-0.7 Na-130* 
K-5.6* Cl-97 HCO3-23 AnGap-10
___ 11:45AM BLOOD ALT-747* AST-133* LD(LDH)-512* 
AlkPhos-358* TotBili-12.8* DirBili-7.3* IndBili-5.5
___ 11:45AM BLOOD Albumin-3.4* Calcium-8.8 Phos-2.9 Mg-2.1
___ 11:45AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 11:45AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 11:45AM BLOOD HCV Ab-NEG

Pertinent Interval Labs: 

___ 07:34AM BLOOD WBC-4.6 RBC-4.35* Hgb-12.3* Hct-36.9* 
MCV-85 MCH-28.3 MCHC-33.3 RDW-17.0* RDWSD-52.6* Plt ___
___ 07:10AM BLOOD ___ PTT-29.7 ___
___ 07:34AM BLOOD Glucose-91 UreaN-9 Creat-0.6 Na-134* 
K-4.9 Cl-101 HCO3-21* AnGap-12
___ 07:34AM BLOOD ALT-429* AST-88* AlkPhos-341* 
TotBili-10.3*

Imaging: 
Liver Gallbladder Ultrasound: 
IMPRESSION: 
 
1.  Echogenic liver consistent with steatosis. Other forms of 
liver disease
including steatohepatitis, hepatic fibrosis, or cirrhosis cannot 
be excluded
on the basis of this examination.
2.  Gallbladder not visualized, which may be contracted as 
patient reports no
history of prior cholecystectomy.  No biliary ductal dilatation.
 
 
Brief Hospital Course:
Patient Summary Statement for Admission
=======================================
___ man with history of testicular cancer s/p 
orchiectomy and BEP and in remission who presents with abnormal 
LFTs, found to have acute hepatitis A. 

Acute Medical Issues Addressed: 
==============================
# Acute Hepatitis A Infection
# Acute transaminitis 
Patient presents with jaundice, malaise, and diarrhea with 
elevated transaminases ALT>>AST >15xULN as well as direct 
hyperbilirubinemia highly suggestive of acute viral hepatitis. 
No evidence of acute liver failure given relatively normal 
synthetic function, lack of AMS, ascites. Tox screen was 
negative. Hepatology was consulted and provided recommendations. 
Hepatitis serologies were sent with Hep A IgM positive. ___, 
AMA, ___ were pending on discharge. By HD#2 patient's LFTs were 
downtrending and was tolerating PO intake without diarrhea. 
Health department was aware of patient's diagnosis. His primary 
risk factor for Hep A exposure is occupational as he frequently 
works with sewage. We educated patient re the importance of 
vaccination to Hep A for intimate contacts and household 
members. 

# Hyponatremia
Sodium mildly low at 130, improved to 134 on discharge. Likely 
related to acute liver dysfunction. Will give slip for repeat 
labs as outpatient. 

# Normocytic anemia
Hgb 12.3 with MCV 85, possibly related to acute hepatitis. Will 
give lab slip for repeat labs as outpatient. 

Core Measures: 
==============
# CODE: full (presumed) 
# CONTACT: ___ (Mother) - ___ 

Transitional Issues:
====================
[] Recommend patient's close contacts (household and intimate 
partners) have been vaccinated for hepatitis A. 
[] Patient is to have recheck of LFTs/Chem-10/CBC on ___. 
Liver labs on discharge include: ALT: 429* AST: 88* ALk Phos: 
341* T.bili 10.3*, Hgb 12.3, Na 134
[] Liver US showing echogenic liver consistent with steatosis. 
Consider fibroscan for further evaluation. 
[] Consider further workup of anemia if persists
[] Pending labs: AMA, anti-smooth muscle antibody, ___, 
ceruloplasmin, CMV, EBV
[] Please vaccinate patient for Hepatitis B in the future after 
acute hepatitis resolves
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcipotriene 0.005% Cream 1 Appl TP BID:PRN itchiness 
2. Desonide 0.05% Cream 1 Appl TP BID:PRN groin rash 
3. Ketoconazole 2%  1 Appl TP BID:PRN groin rash 

 
Discharge Medications:
1.  Calcipotriene 0.005% Cream 1 Appl TP BID:PRN itchiness  
2.  Desonide 0.05% Cream 1 Appl TP BID:PRN groin rash  
3.  Ketoconazole 2%  1 Appl TP BID:PRN groin rash  
4.Outpatient Lab Work
ICD-9 code: B15.9
Lab Tests to be completed: AST, ALT, Alk Phos, Total Bilirubin, 
BMP, Ca, Mg, Phosphate, CBC 
Date: ___
Please fax results to ___. MD at ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Hepatitis A 

SECONDARY DIAGNOSIS
Acute transaminitis
Hyponatremia 
Acute anemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital because your liver enzyme 
tests were elevated concerning for an infection in you liver.   

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- While you were in the hospital we ran some blood tests to 
assess your liver function. Your symptoms were due to an 
infection in the liver called hepatitis A. 
- We also did an ultrasound of your liver which showed some 
changes to the texture of your liver which you should have 
followed up as an outpatient.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  
- Please follow-up with the liver doctors.
- Avoid alcohol until instructed otherwise by your primary care 
doctor. 

We wish you the best!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___